US07816557B2
Racemic 3-{4-[1-(4-ethyl-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 128 starting from 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester and ethyl boronic acid. MS: 464.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H27BrF3NO4
reactant | ethyl boronic acid | C(C)B(O)O | C2H7BO2
product | Racemic 3-{4-[1-(4-ethyl-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid | C(C)C1=C(C=C(OC(CCCC(F)(F)F)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C1C)C | C25H30F3NO4
